US05574042
To a suspension of sodium hydride (60% in oil, 9 mg) in N,N-dimethylformamide (1 ml) was added 3-bromo-8-[2,6-dichloro-3-(N-glycoloyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine (100 mg). After stirring for 10 minutes, methyl iodide (36 mg) was added thereto and the mixture was stirred at ambient temperature for 1 hour. To this mixture were added methyl iodide (36 mg) and N,N-dimethylformamide (1 ml). The mixture was stirred at 60° C. for additional 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate 3 times. The combined organic layers were washed with water 4 times and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromato- graphy (dichloromethane: methanol=20:1, V/V) followed by crystallization from ethanol-diethyl ether to give 3-bromo-8-[3-(N-methoxyacetyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylimidazo[1,2-a]pyridine (20 mg) as crystals.

reactant | sodium hydride | 9 mg | [H-].[Na+]
reactant | 3-bromo-8-[2,6-dichloro-3-(N-glycoloyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 100 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CO)=O)Cl)C | C18H16BrCl2N3O3
reactant | methyl iodide | 36 mg | CI | CH3I
reactant | methyl iodide | 36 mg | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-bromo-8-[3-(N-methoxyacetyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylimidazo[1,2-a]pyridine | 20 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(COC)=O)Cl)C | C19H18BrCl2N3O3
